US08703946B2
Tris(dibenzylideneacetone)dipalladium(0) (9.6 mg, 0.01 mmol) was added to a stirred suspension of (4-fluoro-phenyl)-(3-iodo-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone (50 mg, 0.1 mmol), sodium tert-butoxide (30 mg, 0.31 mmol) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (19.6 mg, 0.031 mmol) in toluene (2 mL) in a sealed tube and under N2. The mixture was stirred at room temperature for 5 minutes and then benzophenone imine (0.035 mL, 0.21 mmol) was added. The mixture was stirred at 100° C. for 2.5 hours. Then a 1M aqueous solution of HCl (3 mL) was added and the mixture was stirred at room temperature for 16 hours. The mixture was diluted with a saturated solution of Na2CO3 and water and extracted with DCM. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; MeOH in DCM 0/100 to 6/94). The desired fractions were collected and the solvents evaporated in vacuo. The desired product was triturated with diethyl ether to yield (3-amino-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-(4-fluoro-phenyl)-methanone (18 mg, 47% yield) as a white solid. C20H19FN4O2 1H NMR (500 MHz, CDCl3) δ ppm 1.53 (s, 1H), 2.86 (br. s., 1H), 3.99 (br. s., 2H), 4.18 (br. s., 2H), 4.70 (br. s., 2H), 5.08 (s, 2H), 6.97 (t, J=7.4 Hz, 1H), 7.02 (d, J=8.1 Hz, 2H), 7.15 (t, J=8.7 Hz, 2H), 7.30 (dd, J=8.4, 7.5 Hz, 2H), 7.49 (dd, J=8.5, 5.3 Hz, 2H).

reactant | (4-fluoro-phenyl)-(3-iodo-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone | 0.1 mmol, 50 mg | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2I)COC2=CC=CC=C2 | C20H17FIN3O2
reactant | sodium tert-butoxide | 0.31 mmol, 30 mg | CC(C)([O-])C.[Na+]
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.031 mmol, 19.6 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | benzophenone imine | 0.21 mmol, 0.035 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | HCl | 3 mL | Cl | ClH
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 9.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3-amino-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-(4-fluoro-phenyl)-methanone | 18 mg, 47% yield | NC=1C(=NN2C1CN(CC2)C(=O)C2=CC=C(C=C2)F)COC2=CC=CC=C2 | C20H19FN4O2
